US04513145
6,7-diacetoxy-2-methylchromone-3-carboxylic acid
A mixture of 6,7-dihydroxy-2-methylchromone-3-carboxylic acid (2.24 g), dimethylformamide (30 ml), ethyl acetate (10 ml), pyridine (2.3 ml) and acetic anhydride (2.3 ml) was stirred at room temperature for 3 hours. Ethyl acetate (100 ml) was added to the reaction mixture, and the organic layer was washed successively with 6N-HCl and water, and thereafter dried over anhydrous magnesium sulfate. The solvent was evaporated and ethyl ether was added to the residue. The resulting solid was collected by filtration. It was washed with a 1:1 mixed solvent of ethyl acetate and ethyl ether and then dried, to obtain the desired product (1.93 g).

reactant | 6,7-dihydroxy-2-methylchromone-3-carboxylic acid | 2.24 g | OC=1C=C2C(C(=C(OC2=CC1O)C)C(=O)O)=O | C11H8O6
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | acetic anhydride | 2.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
product | 6,7-diacetoxy-2-methylchromone-3-carboxylic acid | 1.93 g | C(C)(=O)OC=1C=C2C(C(=C(OC2=CC1OC(C)=O)C)C(=O)O)=O | C15H12O8
